US07618993B2
C. 1-(4-{[(2S)-2-methoxypropyl]oxy}phenyl)ethanamine
tert-Butyl [1-(4-{[(2S)-2-methoxypropyl]oxy}phenyl)ethyl]carbamate (0.29 g, 0.94 mmol) was treated with trifluoroacetic acid (2 mL) in dichloromethane (18 mL) for 25 minutes, the volatiles removed under reduced pressure and the residue purified by silica gel column chromatography using dichloromethane:methanol:triethylamine 98:1:1 giving the title compound in 0.12 g (59%) yield 1H NMR (400 MHz, DMSO-d6) δ ppm 8.14 (s, 2 H) 7.34-7.41 (m, J=8.78 Hz, 2 H) 6.97-7.03 (m, 2 H) 4.35 (q, J=6.78 Hz, 1 H) 3.93 (d, J=5.02 Hz, 2 H) 3.60-3.70 (m, 1 H) 3.30 (s, 3 H) 2.96 (q, J=7.11 Hz, 1 H) 1.45 (d, J=6.78 Hz, 3 H) 1.16 (d, J=6.27 Hz, 3 H)

reactant | tert-Butyl [1-(4-{[(2S)-2-methoxypropyl]oxy}phenyl)ethyl]carbamate | 0.94 mmol, 0.29 g | CO[C@H](COC1=CC=C(C=C1)C(C)NC(OC(C)(C)C)=O)C | C17H27NO4
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 18 mL | ClCCl | CH2Cl2
product | 1-(4-{[(2S)-2-methoxypropyl]oxy}phenyl)ethanamine | CO[C@H](COC1=CC=C(C=C1)C(C)N)C | C12H19NO2
